US05576340
2-[4-(2 -Oxopropoxy)phenyl]ethanol
Following a procedure similar to that described in Preparation 3, but using 10 g of 2-(4-hydroxyphenyl)-ethanol, 21.6 g of bromoacetone, 30 g of potassium carbonate and 100 ml of dimethylformamide, the title compound was obtained having an Rf=0.31 (thin layer chromatography over silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | 2-(4-hydroxyphenyl)-ethanol | 10 g | OC1=CC=C(C=C1)CCO | C8H10O2
reactant | bromoacetone | 21.6 g | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-[4-(2 -Oxopropoxy)phenyl]ethanol | O=C(COC1=CC=C(C=C1)CCO)C | C11H14O3
